US04602092
[Ethoxy-(4-phenylbutyl)phosphinyl]acetic acid, ethyl ester
To a solution of 4-phenylbutyl phosphonous acid, ethyl ester (0.5 g, 0.0022 mole) in chloroform (10 ml) was added triethylamine (0.34 ml, 0.0024 mole) and the solution was cooled in an ice bath to 0° C. Trimethyl silyl chloride (0.31 ml, 0.0024 mole) was added to the above solution dropwise, followed by ethyl bromoacetate (0.27 ml, 0.0024 mole). The ice bath was removed and the mixture stirred at room temperature for 6 hours and poured into 50% aqueous HCl (30 ml) and crushed ice (20 g). After shaking the mixture in a separatory funnel, the chloroform layer was separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and the solvents removed on a rotavap. The resulting yellow oil (0.6 g) was vacuum dried to get 0.58 (84%) of title compound. TLC, silica gel, acetone:hexane (1:1), Rf =0.28.

reactant | 4-phenylbutyl phosphonous acid, ethyl ester | 0.0022 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(OCC)[O-]
reactant | triethylamine | 0.0024 mole, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethyl silyl chloride | 0.0024 mole, 0.31 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl bromoacetate | 0.0024 mole, 0.27 ml | BrCC(=O)OCC | C4H7BrO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | [Ethoxy-(4-phenylbutyl)phosphinyl]acetic acid, ethyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC | C16H25O4P
